US07994185B2
N-{3-[5-[2-(Cyclopropylamino)-4-pyrimidinyl]-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-fluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-fluorobenzenesulfonamide (100 mg, 0.20 mmol) and cyclopropylamine (141 μL, 2.0 mmol) and K2CO3 (283 mg, 2.0 mmol) in 1-butanol (5 mL) the title compound was obtained as a white powder (43 mg, 0.08 mmol, 42.2% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.51 (s, 1H), 8.05 (d, J=5.0 Hz, 1H), 7.48-7.65 (m, 5H), 7.33 (t, J=7.4 Hz, 1H), 7.19-7.23 (m, 3H), 6.09 (d, J=4.7 Hz, 1H), 3.25-3.30 (m, 1H), 2.67 (bs, 1H), 1.35 (d, J=7.0 Hz, 6H), 0.63 (d, J=4.7 Hz, 2H), 0.46 (bs, 2H). MS (ESI): 510.4 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-fluorobenzenesulfonamide | 0.20 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=CC(=CC=C1)F | C22H18ClFN4O2S2
reactant | cyclopropylamine | 2.0 mmol, 141 μL | C1(CC1)N | C3H7N
reactant | K2CO3 | 2.0 mmol, 283 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1-butanol | 5 mL | C(CCC)O | C4H10O
product | N-{3-[5-[2-(Cyclopropylamino)-4-pyrimidinyl]-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-fluorobenzenesulfonamide | C1(CC1)NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=CC(=CC=C1)F | C25H24FN5O2S2
